US09120749B2
{6-Bromo-4-[1-(trans-4-(methylamino)cyclohexyl)-1H-pyrazol-4-ylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (310 mg, 1.00 mmol) was reacted with 1-[trans-4-(methylamino)cyclohexyl]-1H-pyrazol-4-amine (388 mg, 2.00 mmol) to afford the desired product (65 mg, 14%) as an orange solid: ESI MS m/z 468 [C23H26BrN5O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.00 mmol, 310 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 1-[trans-4-(methylamino)cyclohexyl]-1H-pyrazol-4-amine | 2.00 mmol, 388 mg | CN[C@@H]1CC[C@H](CC1)N1N=CC(=C1)N | C10H18N4
product | {6-Bromo-4-[1-(trans-4-(methylamino)cyclohexyl)-1H-pyrazol-4-ylamino]quinolin-3-yl}(cyclopropyl)methanone | 65 mg, 14% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)[C@@H]1CC[C@H](CC1)NC | C23H26BrN5O
